data/mechanism_extracts/ChemCommun/10.1039_D3CC05770D.json
{"doi": "10.1039_D3CC05770D", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical Wacker-type aerobic oxygenation of triaryl-substituted alkenes to 1,2,2-triarylethanones using O2 as oxygen source in an undivided cell with LiClO4/CH3CN", "mechanism_family": ["radical_cation", "radical_anodic", "radical_cathodic", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of the triaryl alkene to a radical cation (Eox ~2.1 V vs SCE); simultaneous cathodic reduction of O2 to superoxide (Ered ~ -0.91 V vs SCE)", "key_intermediates": [{"name": "alkene radical cation (3)", "smiles": null, "role": "reactive"}, {"name": "zwitterionic peroxide adduct from radical cation + superoxide (4)", "smiles": null, "role": "transient"}, {"name": "1,2-dioxetane (four-membered peroxide ring, 5)", "smiles": null, "role": "transient"}, {"name": "superoxide radical anion (O2•-)", "smiles": "[O-][O]", "role": "reactive"}, {"name": "ethylene oxide-type epoxide intermediate (6)", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, the triaryl alkene undergoes single-electron oxidation to a radical cation; at the cathode, O2 is reduced to superoxide. Superoxide couples with the radical cation to give a zwitterion that cyclizes to a 1,2-dioxetane, which fragments with a 1,2-aryl shift to deliver the 1,2,2-triarylethanone (and an epoxide that further rearranges to the same ketone).", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace product 2a formed, indicating involvement of a radical pathway"}, {"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction strongly inhibited; only trace 2a"}, {"name": "no-current control", "smiles": null, "purpose": "other", "observation": "No 2a formed without applied current, confirming electrochemical activation is required"}, {"name": "ultra-dry conditions", "smiles": null, "purpose": "other", "observation": "Yield of 2a unchanged (71%), excluding H2O as oxygen source"}, {"name": "18O2", "smiles": null, "purpose": "isotope_label", "observation": "HRMS shows 18O-labeled 2a, confirming O2 as the oxygen source"}, {"name": "H2 18O under Ar", "smiles": null, "purpose": "isotope_label", "observation": "No product formed, excluding water as oxygen source"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "O2 reduced at -0.91 V vs SCE; 1a oxidized at ~2.1 V vs SCE, supporting paired anodic/cathodic events"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "on/off_light_or_current", "product_isotope_distribution", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors invoke a 1,2-dioxetane intermediate that fragments with 1,2-aryl migration of the electron-rich aryl group to rationalize the 1,2,2-triarylethanone connectivity; an alternative pathway via an epoxide intermediate (6) that rearranges (Meinwald-type) is proposed as a parallel route to the same ketone. No DFT or KIE reported."}
